data/mechanism_extracts/JACS/10.1021_jacs.1c12762.json
{"doi": "10.1021_jacs.1c12762", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrocatalytic intramolecular cyclopropanation of active methylene cyanoamides bearing tethered alkenes using a phenothiazine organocatalyst (PT-1) in TFE to give cyclopropane-fused quinolinones and pyrrolidinones.", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of phenothiazine catalyst PT-1 to its persistent radical cation [PT-1]•+, which serves as the active oxidant; cathodic reduction of CF3CH2OH generates CF3CH2O- (base) and H2.", "key_intermediates": [{"name": "phenothiazine radical cation [PT-1]•+ (SOMO with significant S character)", "smiles": null, "role": "reactive"}, {"name": "deprotonated cyanoamide anion (70 -> anion after CF3CH2O- deprotonation)", "smiles": null, "role": "transient"}, {"name": "alpha-cyano carbon radical 71 (electrophilic C-radical on cyanoamide)", "smiles": null, "role": "reactive"}, {"name": "cyclized alkyl radical 72 (after 5-exo/exo-trig radical cyclization onto pendant alkene)", "smiles": null, "role": "reactive"}, {"name": "sulfonium adduct 73 (C-S bond between alkyl radical 72 and [PT-1]•+)", "smiles": null, "role": "reactive"}, {"name": "substrate-catalyst adduct 68 (analog of 73 from methylated substrate 67) detected by HRMS at m/z 608.2032", "smiles": null, "role": "stoichiometric_intermediate"}, {"name": "cyclopropane product 74 + regenerated PT-1 (after SN2-like displacement by CF3CH2O-)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PT-1 to [PT-1]•+; cathodically generated CF3CH2O- deprotonates the active methylene substrate, and [PT-1]•+ oxidizes the resulting carbanion to an alpha-cyano C-radical, which undergoes exo-trig cyclization; the cyclized alkyl radical couples with another [PT-1]•+ to give a sulfonium intermediate that is opened by CF3CH2O- in a Corey-Chaykovsky-like SN2 to deliver the cyclopropane and regenerate PT-1.", "rate_determining_step": null, "probe_reagents": [{"name": "cis/trans-alkene stereoisomers 64 and 65", "smiles": null, "purpose": "other", "observation": "Both isomers gave similar yields and a mixture of diastereomers (1.7:1 and 1.3:1 dr), indicating loss of alkene stereochemistry and a stepwise radical cyclization rather than concerted carbene-like addition."}, {"name": "alpha-methylated cyanoamide 67", "smiles": null, "purpose": "intermediate_trap", "observation": "Blocks the cyclization step after C-S bond formation; substrate-catalyst sulfonium adduct 68 detected by HRMS (608.2032, calc 608.2036), supporting sulfonium intermediate 73."}, {"name": "cyclic voltammetry of 1, PT-1, and PT-1 + 1 + LiOMe", "smiles": null, "purpose": "redox_probe", "observation": "Catalytic current observed only with both amide 1 and base present, showing base-assisted electrocatalytic oxidation of substrate by [PT-1]•+."}, {"name": "DFT calculation of [PT-1]•+ SOMO and exo- vs endo-trig cyclization", "smiles": null, "purpose": "other", "observation": "SOMO is distributed across the tricyclic ring with significant density on sulfur (rationalizing C-S coupling); exo-trig cyclization is kinetically favored over endo even for 1,1-disubstituted alkenes."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "DFT", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors emphasize that efficient radical cyclization of 71 is essential — otherwise the open-chain alpha-cyano radical can couple with [PT-1]•+ to form undesired sulfur ylides. The C-S/SN2 termination is explicitly analogized to the Corey-Chaykovsky cyclopropanation. The corresponding adduct 69 from non-methylated substrate 1 was not observed by HRMS, consistent with fast turnover. No exogenous base is needed because cathodic reduction of TFE continuously generates CF3CH2O-."}
